US20010000257A1
Copolymer of Maleic Anhydride-Methyl Vinyl Ether+N,N′-1,3-Phenylenedimaleimide (mole ratio 49.975:50.025:0.025)
A 2-liter stainless steel high pressure reactor was charged with 513.88 g of acetone and 0.201 g of N,N′-1,3-phenylenedimaleimide. The reactor was sealed and purged three times with nitrogen gas ending with a head pressure of 25 psi N2. Then the temperature was raised to 70° C. during a 40 min period. When the temperature reached 60° C., 111.88 ml of molten maleic anhydride was introduced. At 80° C., separate feeds of 175.35 ml of methyl vinyl ether and 1.17 g of decanoyl peroxide in 33 g of acetone were introduced into the reactor over a period of 3 hours, with the methyl vinyl ether feed begun 10 min. before the decanoyl peroxide-acetone solution. After the feed was completed, the reactor was maintained at 80° C. for an additional half-hour. The reactor was then cooled to provide a thick, viscous light amber colored solution of the desired copolymer product in acetone.

reactant | N,N′-1,3-phenylenedimaleimide | 0.201 g | C1(=CC(=CC=C1)N1C(C=CC1=O)=O)N1C(C=CC1=O)=O | C14H8N2O4
reactant | acetone | 513.88 g | CC(=O)C | C3H6O
product | Maleic Anhydride Methyl Vinyl Ether N,N′-1,3-Phenylenedimaleimide | C1(\C=C/C(=O)O1)=O.C(=C)OC.C1(=CC(=CC=C1)N1C(C=CC1=O)=O)N1C(C=CC1=O)=O | InChI=1S/C14H8N2O4.C4H2O3.C3H6O/c17-11-4-5-12(18)15(11)9-2-1-3-10(8-9)16-13(19)6-7-14(16)20;5-3-1-2-4(6)7-3;1-3-4-2/h1-8H;1-2H;3H,1H2,2H3
